US07229999B2
3-Bromo-2-chloro-5-methyl-pyridine
A mixture of 3-bromo-5-methyl-2(1H)-pyridinone (25 g, 0.13 mol) and phosphorus oxychloride (500 mL) was boiled with stirring for 20 h. Phosphorus oxychloride was removed by distillation and the residue was poured onto ice/water (800 mL). The mixture was adjusted to pH 8.5 with 2 N sodium hydroxide solution and extracted with diethyl ether. Organic phases were pooled, dried with Na2SO4 and the solvent was evaporated. The residue, 23.4 g of the title compound as a greyish solid was introduced into the next step without purification, MS (EI) 204.9, 206.9 (M)+.

reactant | 3-bromo-5-methyl-2(1H)-pyridinone | 0.13 mol, 25 g | BrC=1C(NC=C(C1)C)=O | C6H6BrNO
reactant | phosphorus oxychloride | 500 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-Bromo-2-chloro-5-methyl-pyridine | BrC=1C(=NC=C(C1)C)Cl | C6H5BrClN
